US05025031
Sulfamic acid 4-nitro-3-(trifluoromethyl)phenyl ester
This compound was prepared according to the procedure used in Example 56. A mixture of 10.4 g (0.05 mole) of 5-hydroxy-2-nitrobenzotrifluoride, 7.8 g (0.055 mole) of chlorosulfonyl isocyanate and 75 ml of toluene gave 11.1 g (78%) of tan solid, mp 95°-97° C. (benzene).

reactant | 5-hydroxy-2-nitrobenzotrifluoride | 0.05 mole, 10.4 g | OC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H4F3NO3
reactant | chlorosulfonyl isocyanate | 0.055 mole, 7.8 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Sulfamic acid 4-nitro-3-(trifluoromethyl)phenyl ester | 11.1 g, 78% | [N+](=O)([O-])C1=C(C=C(C=C1)OS(N)(=O)=O)C(F)(F)F | C7H5F3N2O5S
